### PR TITLE
feat: add udiv/umod bitblasting for bv_decide

### PR DESCRIPTION
**Pull request by bollu**
This PR adds the theorems

```
@[simp]
theorem divRec_zero (qr : DivModState w) :
  divRec w w 0 n d qr  = qr

@[simp]
theorem divRec_succ' (wn : Nat) (qr : DivModState w) :
    divRec w wr (wn + 1) n d qr =
    let r' := shiftConcat qr.r (n.getLsbD wn)
    let input : DivModState w :=
      if r' < d then ⟨qr.q.shiftConcat false, r'⟩ else ⟨qr.q.shiftConcat true, r' - d⟩
    divRec w (wr + 1) wn n d input
```

The final statements may need some masasging to interoperate with `bv_decide`. We prove the recurrence for unsigned division by building a shift-subtract circuit, and then showing that this circuit obeys the division algorithm's invariant. 

--- 

A `DivModState` is lawful if the remainder width `wr` plus the dividend width `wn` equals `w`,
and the bitvectors `r` and `n` have values in the bounds given by bitwidths `wr`, resp. `wn`.
This is a proof engineering choice: An alternative world could have
`r : BitVec wr` and `n : BitVec wn`, but this required much more dependent typing coercions.
Instead, we choose to declare all involved bitvectors as length `w`, and then prove that
the values are within their respective bounds.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -430,6 +430,394 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+      simp only [qr.toNat_shiftRight_sub_one_eq h,
+        BitVec.toNat_sub_eq_toNat_sub_toNat_of_le rltd',
+        toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hrWidth]
+      simp only [BitVec.le_def,
+        toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hrWidth] at rltd'
+      simp only [toNat_shiftConcat_eq_of_lt_of_lt_two_pow (qr.wr_lt_w h) h.hqWidth, h.hdiv, Nat.mul_add]
+      bv_omega
+
+/-! ### Core divsion algorithm circuit -/
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:763]:
```suggestion
/-! ### Core division algorithm circuit -/

```

File: src/Init/Data/Bool.lean [hunk 2]
```diff
@@ -380,13 +380,17 @@ theorem and_or_inj_left_iff :
...
-@[simp] theorem toNat_true : true.toNat = 1 := rfl
+@[simp, bv_toNat] theorem toNat_true : true.toNat = 1 := rfl
 
 theorem toNat_le (c : Bool) : c.toNat ≤ 1 := by
   cases c <;> trivial
 
+@[deprecated toNat_le (since := "2024-02-23")]
+abbrev toNat_le_one := toNat_le
+
+@[bv_toNat]
```
Comment (tobiasgrosser) [inline src/Init/Data/Bool.lean:393]:
```suggestion
@[bv_toNat]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2009,4 +2051,14 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
+/-! ### Lemmas about non-overflowing computations -/
+
+/-- If `y ≤ x`, then `x - y` does not overflow, thus `(x - y).toNat = x.toNat - y.toNat`. -/
+theorem toNat_sub_eq_toNat_sub_toNat_of_le {x y : BitVec w} (h : y ≤ x) :
+    (x - y).toNat = x.toNat - y.toNat := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2058]:
```suggestion
theorem toNat_sub_of_le {x y : BitVec w} (h : y ≤ x) :
    (x - y).toNat = x.toNat - y.toNat := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -430,6 +430,394 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+@[simp, bv_toNat]
+theorem toNat_shiftConcat {x : BitVec w} {b : Bool} : (x.shiftConcat b).toNat =
+    (x.toNat <<< 1 + b.toNat) % 2 ^ w  := by
+  simp only [shiftConcat]
+  rw [← add_eq_or_of_and_eq_zero] -- Due to `add_eq_or_of_and_eq_zero`, this must live in `Bitblast`.
+  · simp
+  · ext i
+    simp
+    omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:650]: I would prefer these `toNat_shiftConcat` theorems to be in `BitVec/Lemmas.lean`. I guess the proof would be a bit more involved, but maybe that's worth knowing that including `Lemmas.lean` gives you a complete toNat interface.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -1421,6 +1432,28 @@ theorem getLsbD_concat (x : BitVec w) (b : Bool) (i : Nat) :
     (concat x a) ^^^ (concat y b) = concat (x ^^^ y) (xor a b) := by
   ext i; cases i using Fin.succRecOn <;> simp
 
+/-! ### shiftConcat -/
+
+@[simp]
+theorem getLsb_shiftConcat {x : BitVec w} {b : Bool} {i : Nat} :
+    (x.shiftConcat b).getLsbD i =
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1439]:
```suggestion
theorem getLsbD_shiftConcat {x : BitVec w} {b : Bool} {i : Nat} :
    (x.shiftConcat b).getLsbD i =
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -1421,6 +1432,28 @@ theorem getLsbD_concat (x : BitVec w) (b : Bool) (i : Nat) :
...
+    ((decide (i < w) && !decide (i < 1) && x.getLsbD (i - 1)) ||
+      decide (i < w) && (decide (i = 0) && b)) := by
+  simp [shiftConcat]
+
+theorem shiftRight_sub_one_eq_shiftConcat_getLsb_of_lt {n : BitVec w} (hwn : 0 < wn) :
+    n >>> (wn - 1) = (n >>> wn).shiftConcat (n.getLsbD (wn - 1)) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1445]:
```suggestion
theorem shiftRight_sub_one_eq_shiftConcat_getLsbD_of_lt {n : BitVec w} (hwn : 0 < wn) :
    n >>> (wn - 1) = (n >>> wn).shiftConcat (n.getLsbD (wn - 1)) := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -430,6 +430,394 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+/-- `x.shiftConcat b` does not overflow if `x < 2^k` for `k < w`, and so
+`x.shiftConcat b |>.toNat = x.toNat * 2 + b.toNat`. -/
+theorem toNat_shiftConcat_eq_of_lt_of_lt_two_pow {x : BitVec w} {b : Bool} {k : Nat}
+  (hk : k < w) (hx : x.toNat < 2 ^ k) :
+    (x.shiftConcat b).toNat = x.toNat * 2 + b.toNat := by
+  simp [bv_toNat, Nat.shiftLeft_eq]
+  have h := @Nat.pow_lt_pow_of_lt 2 k w (by omega) (by omega)
+  have := (@Nat.pow_lt_pow_eq_pow_mul_le_pow 2 k w (by omega)).mp h
+  rw [Nat.mod_eq_of_lt (by cases b <;> simp [bv_toNat] <;> omega)]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:660]:
```suggestion
  simp [bv_toNat, Nat.shiftLeft_eq]
  have : 2 ^ k < 2 ^ w := Nat.pow_lt_pow_of_lt (by omega) (by omega)
  have : 2 ^ k * 2 ≤ 2 ^ w := (Nat.pow_lt_pow_eq_pow_mul_le_pow (by omega)).mp this
  rw [Nat.mod_eq_of_lt (by cases b <;> simp [bv_toNat] <;> omega)]
```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:660]: This increases readability and avoids the need to explicitly initialize implicit parameters.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -430,6 +430,394 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+theorem toNat_shiftConcat_lt_of_lt_of_lt_two_pow {x : BitVec w} {b : Bool} {k : Nat}
+    (hk : k < w) (hx : x.toNat < 2 ^ k) :
+    (x.shiftConcat b).toNat < 2 ^ (k + 1) := by
+  rw [toNat_shiftConcat_eq_of_lt_of_lt_two_pow hk hx]
+  apply mul_two_add_lt_two_pow_of_lt_two_pow_of_lt_two hx
+  · cases b <;> decide
+  · omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:668]:
```suggestion
  rw [toNat_shiftConcat_eq_of_lt_of_lt_two_pow hk hx]
  have : 2 ^ (k + 1) ≤ 2 ^ w := Nat.pow_le_pow_of_le_right (by decide) (by assumption)
  have := Bool.toNat_lt b
  omega
```

This avoids the need for `mul_two_add_lt_two_pow_of_lt_two_pow_of_lt_two`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -430,6 +430,394 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+If `n : Bitvec w` has only the low `k < w` bits set,
+then `(n <<< 1 | b)` does not overflow.
+-/
+private theorem mul_two_add_lt_two_pow_of_lt_two_pow_of_lt_two {n b k w : Nat}
+    (hn : n < 2 ^ k) (hb : b < 2) (hk : k < w) :
+    n * 2 + b < 2 ^ w := by
+  have : 2^(k + 1) ≤ 2 ^w := Nat.pow_le_pow_of_le_right (by decide) (by assumption)
+  omega
+
+@[simp, bv_toNat]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:642]:
```suggestion
@[simp, bv_toNat]
```

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:642]: This is not needed anymore after the change proposed below.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 4 above)
Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:650]: It's not possible for it live in `Lemmas.lean` at the moment, because it depends on being able to rewrite bitwise `or` into addition. These theorems are proven based on the `adc` definition that lives in `Bitblast.lean`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 10]
```diff
@@ -430,6 +430,384 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  divRec w w 0 n d qr  = qr := rfl
+
+@[simp]
+theorem divRec_succ (wn : Nat) (qr : DivModState w) :
+    divRec w wr (wn + 1) n d qr =
+      divRec w (wr + 1) wn n d
+        (divSubtractShift n d (wn + 1) qr) := rfl
+
+theorem divRec_correct {n d : BitVec w} (qr : DivModState w)
+  (h : DivModState.Lawful w wr wn n d qr) : DivModState.Lawful w w 0 n d (divRec w wr wn n d qr) := by
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:773]:
```suggestion
    (h : DivModState.Lawful w wr wn n d qr) : 
    DivModState.Lawful w w 0 n d (divRec w wr wn n d qr) := by
```

**Review by alexkeizer — COMMENTED** [review]
I've got some remarks about naming and documentation, but it mostly LGTM.

I do have some thoughts about `shiftConcat`s definition, in particular, I wonder if it might be cleaner to define it purely in terms of bitvec operations. I'll give that a try to see how it plays out.

Also, please update the PR description!

File: src/Init/Data/BitVec/Bitblast.lean [hunk 11]
```diff
@@ -430,6 +430,349 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  hqWidth := by simp [DivModState.init],
+  hdiv := by
+    simp only [DivModState.init, toNat_ofNat, zero_mod, Nat.mul_zero, Nat.add_zero];
+    rw [Nat.shiftRight_eq_div_pow]
+    apply Nat.div_eq_of_lt n.isLt
+}
+
+/--
+A lawful DivModState with a fully consumed dividend (`wn = 0`) witneses that the
+quotient has been correctly computed.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:572]:
```suggestion
A lawful DivModState with a fully consumed dividend (`wn = 0`) wittnesses that the
quotient has been correctly computed.
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 12]
```diff
@@ -430,6 +430,349 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+theorem DivModState.udiv_eq_of_lawful_zero {qr : DivModState w}
+    (h : DivModState.Lawful w w 0 n d qr) :
+    n.udiv d = qr.q := by
+  apply udiv_eq_of_mul_add_toNat h.hdPos h.hrLtDivisor
+  have hdiv := h.hdiv
+  omega
+
+/--
+A lawful DivModState with a fully consumed dividend (`wn = 0`) witneses that the
+remainder has been correctly computed.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:583]:
```suggestion
A lawful DivModState with a fully consumed dividend (`wn = 0`) witnesses that the
remainder has been correctly computed.
```

**Comment by semorrison** [comment]
(Adding `awaiting-author` for Alex's review comments. Also, please resolve the merge conflict.)

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -2183,7 +2248,6 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
-
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2186]: Unrelated change

File: src/Init/Data/BitVec/Bitblast.lean [hunk 14]
```diff
@@ -438,6 +438,349 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+- `0 = 2 * 3 + 2 = 6 + 2 ≃ 0 (mod 8)` (`q = 2`, `r = 2 < 3`).
+
+Such examples can be created by choosing different `(q, r)` for a fixed `(d, n)`
+such that `(d * q + r)` overflows and wraps around to equal `n`.
+
+This tells us that the division algorithm must have more restrictions than just the ones
+we have for integers. These restrictions are captured in `DivModState.Lawful`.
+The key idea is to state the relationship in terms of the `{n, d, q, r}.toNat` values.
+If the division equation `d.toNat * q.toNat + r.toNat = n.toNat` holds,
+then `n.udiv d = q` and `n.umod d = r`.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:459]: The first comment states that there is no unique solution for the division equation due to overflows, then you pick the .toNat equation. I am now curious to which specific solution the `.toNat` constraint fixes the bitvectors. Is there an intuitive relation -- and could this relation potentially also be expressed without going to `toNat` (not saying we should)?

Comment (bollu) [reply src/Init/Data/BitVec/Bitblast.lean:459]: It picks the solution that would be legal when interpreting each bitvector as a natural number, i.e. the one where `q = r = 0`.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 13 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Addressed.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 15]
```diff
@@ -438,6 +438,349 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  } else {
+    q := qr.q.shiftConcat true, -- Otherwise, `r' ≥ d`, and we have a quotient bit.
+    r := r' - d -- we subtract to maintain the invariant that `r < d`.
+  }
+
+/-- The value of shifting right by `wn - 1` equals shifting by `wn` and grabbing the lsb at `(wn - 1)`. -/
+theorem DivModState.toNat_shiftRight_sub_one_eq
+    (qr : DivModState w) (h : qr.Poised wr wn n d):
+    n.toNat >>> (wn - 1) = (n.toNat >>> wn) * 2 + (n.getLsbD (wn - 1)).toNat := by
+  show BitVec.toNat (n >>> (wn - 1)) = _
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Bitblast.lean:653]:
```suggestion
/-- The value of shifting right by `wn - 1` equals shifting by `wn` and grabbing the lsb at `(wn - 1)`. -/
theorem DivModState.toNat_shiftRight_sub_one_eq
    {qr : DivModState w} (h : qr.Poised wr wn n d):
    n.toNat >>> (wn - 1) = (n.toNat >>> wn) * 2 + (n.getLsbD (wn - 1)).toNat := by
  show BitVec.toNat (n >>> (wn - 1)) = _
```

qr can be inferred from `h`

File: src/Init/Data/BitVec/Bitblast.lean [hunk 16]
```diff
@@ -438,6 +438,343 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+
+/--
+One round of the division algorithm, that tries to perform a subtract shift.
+Note that this should only be called when `r.msb = false`, so we will not overflow.
+-/
+def divSubtractShift (n : BitVec w) (d : BitVec w) (wn : Nat) (qr : DivModState w) :
+    DivModState w :=
+  let r' := shiftConcat qr.r (n.getLsbD (wn - 1))
+  if r' < d
+  then {
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:641]:
```suggestion
  if r' < d then {
```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 15 above)
Comment (alexkeizer) [reply src/Init/Data/BitVec/Bitblast.lean]: (this has now been fixed)

File: src/Init/Data/BitVec/Bitblast.lean [hunk 17]
```diff
@@ -438,6 +438,386 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  /-- The number of bits in the remainder (and quotient) -/
+  wr : Nat
+  /-- The current quotient. -/
+  q : BitVec w
+  /-- The current remainder. -/
+  r : BitVec w
+
+
+/-- `DivModArgs` contains the arguments to a `divrem` call which remain constant throughout
+execution -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:528]:
```suggestion
/-- `DivModArgs` contains the arguments to a `divrem` call which remain constant throughout
execution. -/
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -438,6 +438,386 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  /-- the numerator (aka, dividend) -/
+  n : BitVec w
+  /-- the denumerator (aka, divisor)-/
+  d : BitVec w
+
+/-- A `DivModState` is lawful if the remainder width `wr` plus the numerator width `wn` equals `w`,
+and the bitvectors `r` and `n` have values in the bounds given by bitwidths `wr`, resp. `wn`.
+
+This is a proof engineering choice: An alternative world could have
+`r : BitVec wr` and `n : BitVec wn`, but this required much more dependent typing coercions.
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:539]:
```suggestion
This is a proof engineering choice: an alternative world could have been
`r : BitVec wr` and `n : BitVec wn`, but this required much more dependent typing coercions.
```

**Review by tobiasgrosser — APPROVED** [review]
This looks great now. Thank you both.

**Comment by kim-em** [comment]
Looks like we still have a merge conflict.

Also, could you (anyone? :-) click resolve on any conversations that don't need further attention?

**Comment by tobiasgrosser** [comment]
@bollu, there are some merge conflicts worth addressing.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -438,6 +438,386 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+  · simp
+  · omega
+  · apply BitVec.toNat_ushiftRight_lt
+    omega
+
+/--
+This is used when proving the correctness of the divison algorithm,
+where we know that `r < d`.
+We then want to show that `((r.shiftConcat b) - d) < d` as the loop invariant.
+In arithmethic, this is the same as showing that
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:684]:
```suggestion
In arithmetic, this is the same as showing that
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 20]
```diff
@@ -1968,6 +2024,10 @@ protected theorem umod_lt (x : BitVec n) {y : BitVec n} : 0 < y → x.umod y < y
   simp only [ofNat_eq_ofNat, lt_def, toNat_ofNat, Nat.zero_mod, umod, toNat_ofNatLt]
   apply Nat.mod_lt
 
+theorem le_iff_not_lt {x y : BitVec w} : (¬ x < y) ↔ y ≤ x := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2027]:
```suggestion
theorem not_lt_iff_le {x y : BitVec w} : (¬ x < y) ↔ y ≤ x := by
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 21]
```diff
@@ -438,6 +438,386 @@ theorem shiftLeft_eq_shiftLeftRec (x : BitVec w₁) (y : BitVec w₂) :
...
+For `n = 0, d = 3, w = 3`, we can write:
+- `0 = 0 * 3 + 0` (`q = 0`, `r = 0 < 3`.)
+- `0 = 2 * 3 + 2 = 6 + 2 ≃ 0 (mod 8)` (`q = 2`, `r = 2 < 3`).
+
+Such examples can be created by choosing different `(q, r)` for a fixed `(d, n)`
+such that `(d * q + r)` overflows and wraps around to equal `n`.
+
+This tells us that the division algorithm must have more restrictions than just the ones
+we have for integers. These restrictions are captured in `DivModState.Lawful`.
+The key idea is to state the relationship in terms of the `{n, d, q, r}.toNat` values.
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:457]: Could you write ``{n, d, q, r}.toNat`` differently? e.g. as "the `toNat` values of `{n, d, q, r}`" would already be better.

**Comment by kim-em** [comment]
@hargoniX, could you please take a look? I think it would be good to have some documentation explaining how all of this development is actually going to be used by `bv_decide`. I'd really like to have a clearer idea of what exactly `bv_decide` needs for each new operation, and to have a more consistent interface for providing this, but I'm not really equipped to do this myself. :-(

File: src/Init/Data/BitVec/Bitblast.lean (hunk 21 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: Addressed.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 20 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Addressed.

**Comment by tobiasgrosser** [comment]
I addressed @kim-em's review comments (but do not have enough permissions to resolve comments).

For ShiftLeft the connection point is `BitVec.shiftLeft_eq_shiftLeftRec` which is used in https://github.com/leanprover/lean4/blob/5dea30f169b91cdda9a3903a7a9d125e0f075605/src/Std/Tactic/BVDecide/Bitblast/BVExpr/Circuit/Lemmas/Operations/ShiftLeft.lean#L285 to proof:

```lean4
theorem denote_blastShiftLeft (aig : AIG α) (target : ArbitraryShiftTarget aig w0)
    (lhs : BitVec w0) (rhs : BitVec target.n) (assign : α → Bool)
    (hleft : ∀ (idx : Nat) (hidx : idx < w0), ⟦aig, target.target.get idx hidx, assign⟧ = lhs.getLsbD idx)
    (hright : ∀ (idx : Nat) (hidx : idx < target.n), ⟦aig, target.distance.get idx hidx, assign⟧ = rhs.getLsbD idx) :
    ∀ (idx : Nat) (hidx : idx < w0),
        ⟦
          (blastShiftLeft aig target).aig,
          (blastShiftLeft aig target).vec.get idx hidx,
          assign
        ⟧
          =
        (lhs <<< rhs).getLsbD idx := by
```

@hargoniX and @bollu can likely add more details.

**Comment by bollu** [comment]
@hargoniX The connection point should be the following lemmas:

- 1. Write `udiv` in terms of `divRec`:
```lean
/-- The result of `udiv` agrees with the result of the division recurrence. -/
theorem udiv_eq_divRec (hd : 0#w < d) :
    let out := divRec w {n, d} (DivModState.init w)
    n.udiv d = out.q := by
```

- 2: Unfold `divRec` in terms of `divRec_zero`, `divRec_succ'`:

```lean
@[simp]
theorem divRec_zero (qr : DivModState w) :
    divRec 0 args qr = qr := rfl

@[simp]
theorem divRec_succ' (m : Nat) (args : DivModArgs w) (qr : DivModState w) :
    divRec (m+1) args qr =
    let wn := qr.wn - 1
    let wr := qr.wr + 1
    let r' := shiftConcat qr.r (args.n.getLsbD wn)
    let input : DivModState _ :=
      if r' < args.d then {
        q := qr.q.shiftConcat false,
        r := r'
        wn, wr
      } else {
        q := qr.q.shiftConcat true,
        r := r' - args.d
        wn, wr
      }
```

(the primed version `divRec_succ'` was written explicitly for you, so you don't need to reason with another layer of indirection via `divSubtractShift`. If you need a different formulation, happy to provide!

**Comment by kim-em** [comment]
@bollu, could you write a longer/better module doc for the bitblast file, that goes through an example in detail? And then ideally has pointers to the main theorems as in your message above, organised by operation?

It doesn't need to be part of this PR.

**Comment by hargoniX** [comment]
In general there are 2 kinds of lemmas that `bv_decide` is interested in:
1. Reductions, for example there exists a reduction lemma from signed to unsigned less than which is used by `bv_decide`'s preprocessing to remove all calls to `slt`. These lemmas are generally characterized by reducing some `BitVec` built-in to some primitive that `bv_decide` is already aware of.
2. Reducing to a recursive function. This is the situation that we have here. We have some operation `udiv` and we know there exists a recursive function that can build a circuit equivalent to `udiv`. PRs that add such things need to bring lemma that can turn the `BitVec` op into the recursive function. Then for that recursive function we need ways to reason about them, so far that has always been a `_zero` and a `_succ` lemma. That's about it.

**Review by hargoniX — APPROVED** [review]

**Comment by bollu** [comment]
@kim-em I've opened a follow up documentation PR draft, that I'll fill in later today (https://github.com/opencompl/lean4/pull/22). Since that's addressed, I'm happy with the patch, and feel this can be merged if we have the OK.

**Review by tobiasgrosser — APPROVED** [review]
LGTM from me as well.
